US08835472B2
N-(1,1-Dimethyl-2-phenyl-ethyl)-formamide
11.3 g (230 mmol) NaCN are added to 60 mL AcOH. A combination of 30 mL AcOH and 60 mL concentrated sulfuric acid is carefully dropped into the NaCN/AcOH mixture while maintaining the temperature below 20° C. Then 30 mL (195 mmol) 2-methyl-1-phenyl-2-propanol, in 30 mL acetic acid, are added dropwise to the reaction mixture, again keeping the temperature below 20° C. After having finished the addition, the reaction mixture is stirred for an additional hour at r.t., poured onto ice water and is finally neutralised with an aq. Na2CO3 solution. The resulting mixture is extracted with diethylether. The organic layer is dried with MgSO4, filtered and the solvent is removed under reduced pressure. The crude product is used without further purification.

reactant | NaCN | 230 mmol, 11.3 g | [C-]#N.[Na+]
reactant | sulfuric acid | 60 mL | S(O)(O)(=O)=O | H2O4S
reactant | NaCN AcOH | [C-]#N.[Na+].CC(=O)O
reactant | 2-methyl-1-phenyl-2-propanol | 195 mmol, 30 mL | CC(CC1=CC=CC=C1)(C)O | C10H14O
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
solvent | AcOH | 30 mL | CC(=O)O | C2H4O2
solvent | AcOH | 60 mL | CC(=O)O | C2H4O2
product | N-(1,1-Dimethyl-2-phenyl-ethyl)-formamide | CC(CC1=CC=CC=C1)(C)NC=O | C11H15NO
